US09255097B2
Preparation 14A: {1-[4-(4-cyano-3-fluoro-phenyl)-5-cyclopentylethynyl-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
A mixture of tert-butyl 1-(5-chloro-4-(3-fluoro-4-cyanophenyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)piperidin-4-ylcarbamate (200 mg, 0.43 mmol), ethynyl-cyclopentane (82 mg, 0.87 mmol), Pd(MeCN)2Cl2 (4.5 mg, 0.017 mmol), X-Phos (10 mg, 0.022 mmol) and K2CO3 (120 mg, 0.87 mmol) in ACN (15 mL) was stirred overnight at 95° C. in a sealed tube. The reaction mixture was cooled to RT and the solvent was concentrated in vacuo. The residue was purified by silica chromatography (1:2, EA:PE) to give 100 mg (45%) of the title compound. [M+H] Calc'd for C29H34FN5O3, 519. Found, 519.

reactant | tert-butyl 1-(5-chloro-4-(3-fluoro-4-cyanophenyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)piperidin-4-ylcarbamate | 0.43 mmol, 200 mg | ClC1=C(N=C(N(C1=O)C)N1CCC(CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C=C1)C#N)F | C22H25ClFN5O3
reactant | ethynyl-cyclopentane | 0.87 mmol, 82 mg | C(#C)C1CCCC1 | C7H10
reactant | X-Phos | 0.022 mmol, 10 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 0.87 mmol, 120 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 15 mL | C(C)#N | C2H3N
catalyst | Pd(MeCN)2Cl2 | 0.017 mmol, 4.5 mg | CC#N.CC#N.Cl[Pd]Cl
product | {1-[4-(4-cyano-3-fluoro-phenyl)-5-cyclopentylethynyl-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 100 mg, 45% | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C#CC1CCCC1)=O)C)=O | C29H34FN5O3
